US04563310
A mixture of 4-(2-chloro-4-trifluoromethylphenoxy)-1,2-dinitrobenzene (0.9 g, 2.48 mmol), diethyl methylphosphonite (0.5 g, 3.72 mmol) and acetonitrile (3 ml) is stirred at room temperature overnight. The reaction mixture is concentrated to dryness, and the residue is purified by preparative thin layer chromatography (silica gel, eluting with 50% ethyl acetate/hexane) to give ethyl P-methyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinate.

reactant | 4-(2-chloro-4-trifluoromethylphenoxy)-1,2-dinitrobenzene | 2.48 mmol, 0.9 g | ClC1=C(OC2=CC(=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C13H6ClF3N2O5
reactant | diethyl methylphosphonite | 3.72 mmol, 0.5 g | CP(OCC)OCC | C5H13O2P
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | ethyl P-methyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinate | CP(OCC)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C16H14ClF3NO5P
